US09034900B2
Step 1: 3-bromo-4-fluorobenzenesulfonamide
A solution of 3-bromo-4-fluorobenzenesulfonyl chloride (1 g, 3.3 mmol, 90% pure) stirred at 0° C. in THF (15 ml) and DCM (5 ml) was treated with aqueous ammonium hydroxide (28%) by dropwise addition over 15 min. After stirring at 0° C. for 210 min, the mixture was acidified (pH=1) by addition of 1 N HCl (aq). After the mixture was concentrated in vacuo to near dryness, it was treated with water (50 ml), sonicated for 3 min and filtered. After the filter cake was washed sequentially with water (50 ml) and hexanes (100 ml), it was dried in vacuo to afford the title compound (503 mg, 60%) as a white solid which was carried forward without purification. LCMS (M−H)−=253.

reactant | 3-bromo-4-fluorobenzenesulfonyl chloride | 3.3 mmol, 1 g | BrC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3BrClFO2S
reactant | DCM | 5 ml | C(Cl)Cl | CH2Cl2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-bromo-4-fluorobenzenesulfonamide | 503 mg, 60% | BrC=1C=C(C=CC1F)S(=O)(=O)N | C6H5BrFNO2S
